US07820662B2
2-[(3-Chloro-pyrazin-2-yl)-quinolin-7-yl-methyl]-isoindole-1,3-dione
To a suspension of (3-chloropyrazin-2-yl)-quinolin-7-ylmethanol (600 mg, 2.21 mmol), phthalimide (356 mg, 2.42 mmol), and PS-PPh3 (loading 2.12 mmol/g; 1.56 g, 3.31 mmol) in dry THF (20 mL), cooled by ice/water, was added DIAD (480 μL, 493 mg, 2.44 mmol), then the cooling bath was removed and the flask was vortexed at ambient temperature for 21.5 h. More PS-PPh3 (520 mg, 1.10 mmol) and DIAD (160 μL, 164 mg, 0.81 mmol) were added, and vortexing was continued for 6.5 h. The resin was filtered and washed with THF and CH2Cl2. The crude material was chromatographed on silica gel [Jones Flashmaster, 20 g/70 mL cartridge, eluting with hexanes:EtOAc 3:1 (1-14)→2:1 (15-29)→1:1 (30-65)→1:2 (66-80)], yielding the title compound as pale yellow solid; 1H NMR (CDCl3, 400 MHz) δ 7.12 (s, 1H), 7.41 (dd, J=4.4, 8.0 Hz, 1H), 7.54 (dd, J=2.0, 8.4 Hz, 1H), 7.72-7.78 (m, 2H), 7.81-7.89 (m, 3H), 8.01 (d, J=0.8 Hz, 1H), 8.16 (dd, J=0.8, 8.4 Hz, 1H), 8.39 (d, J=2.4 Hz, 1H), 8.50 (d, J=2.4 Hz, 1H), 8.90 (dd, J=1.6, 4.2 Hz, 1H); MS (ES+): m/z 401.0/402.9 (100/38) [MH+].

reactant | (3-chloropyrazin-2-yl)-quinolin-7-ylmethanol | 2.21 mmol, 600 mg | ClC=1C(=NC=CN1)C(O)C1=CC=C2C=CC=NC2=C1 | C14H10ClN3O
reactant | phthalimide | 2.42 mmol, 356 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | PPh3 | 3.31 mmol, 1.56 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 2.44 mmol, 480 μL, 493 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | PPh3 | 1.10 mmol, 520 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.81 mmol, 160 μL, 164 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-[(3-Chloro-pyrazin-2-yl)-quinolin-7-yl-methyl]-isoindole-1,3-dione | ClC=1C(=NC=CN1)C(N1C(C2=CC=CC=C2C1=O)=O)C1=CC=C2C=CC=NC2=C1 | C22H13ClN4O2
